* C:\users\krot\Desktop\study\itmo-prog\sem6\cdesign\lab1\comp4.asc
XX2 a1_eq_b1 N006 N005 vdd nand
XX3 N004 N005 a_greater_b_2bit vdd nand
XX5 B0 B0 not_b0 vdd nand
XX7 A0 A0 not_a0 vdd nand
V1 vdd 0 1
XX9 N001 N001 a0_eq_b0 vdd nand
XX10 A0 B0 N001 vdd xor
XX11 A0 not_b0 N007 vdd nand
XX12 N007 N007 N006 vdd nand
XX14 N002 N002 a1_eq_b1 vdd nand
XX15 A1 B1 N002 vdd xor
XX17 B1 B1 not_b1 vdd nand
XX19 A1 A1 not_a1 vdd nand
XX20 A1 not_b1 N004 vdd nand
V2 A0 0 PULSE(0 1 0 10p 10p 2n 4n)
V3 A1 0 PULSE(0 1 0 10p 10p 8n 16n)
V4 B0 0 PULSE(0 1 0 10p 10p 1n 2n)
V5 B1 0 PULSE(0 1 0 10p 10p 4n 8n)
V6 A2 0 PULSE(0 1 0 10p 10p 32n 64n)
V7 B2 0 PULSE(0 1 0 10p 10p 16n 32n)
XX1 B2 B2 not_b2 vdd nand
XX4 A2 A2 not_a2 vdd nand
XX6 N003 N003 a2_eq_b2 vdd nand
XX8 A2 B2 N003 vdd xor
XX13 A2 not_b2 N008 vdd nand
XX16 a2_eq_b2 a_greater_b_2bit N009 vdd nand
XX18 N008 N009 a_greater_b_3bit vdd nand

* block symbol definitions
.subckt nand VIN1 VIN2 VOUT VDD
M1 VDD VIN1 VOUT VDD PMOS l=90n w=400n
M2 VDD VIN2 VOUT VDD PMOS l=90n w=400n
M3 VOUT VIN1 N001 0 NMOS l=90n w=200n
M4 N001 VIN2 0 0 NMOS l=90n w=200n
.ends nand

.subckt xor A B VOUT VDD
XX1 N001 N003 VOUT vdd nand
XX2 N002 B N003 vdd nand
XX3 A N002 N001 vdd nand
XX4 A B N002 vdd nand
.ends xor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\krot\Documents\LTspiceXVII\lib\cmp\standard.mos
* a0 AND NOT b0
* a1 NAND NOT b1
.tran 64n
* a2 NAND NOT b2
.backanno
.end
